US07405210B2
Preparation 116: 6-Chloro-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid
Pyruvic acid (0.86 mL, 12.4 mmol) was added to a solution of 2-chloro-5-iodo-pyridin-4-ylamine (Preparation 115, 1.05 mg, 4.13 mmol), palladium acetate (56 mg, 0.25 mmol) and DABCO (1.39 g, 12.4 mmol) in anhydrous DMF (30 ml). The reaction mixture was degassed with argon for 20 min, then heated to 145° C. for 2 h. The solvent was removed in vacuo and the residue taken up in water (200 mL). The suspension was made alkaline (pH 9–10) with dilute NaOH solution (1M) and filtered through Celite. After washing of the filtrate with ethyl acetate (50 mL) and ether (50 mL) the pH was adjusted to 3 with dilute HCl solution (1M). Extraction with ethyl acetate (5×50 mL), drying of the combined extracts (MgSO4) and concentration gave the title compound. δH (d6 DMSO): 7.24 (1H, s), 7.42 (1H, s), 8.80 (1H, s); m/z (ES−)=195.02 [M−H]−; RT=2.36 min.

reactant | Pyruvic acid | 12.4 mmol, 0.86 mL | C(C(=O)C)(=O)O | C3H4O3
reactant | 2-chloro-5-iodo-pyridin-4-ylamine | 4.13 mmol, 1.05 mg | ClC1=NC=C(C(=C1)N)I | C5H4ClIN2
reactant | DABCO | 12.4 mmol, 1.39 g | C1CN2CCN1CC2 | C6H12N2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 0.25 mmol, 56 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 6-Chloro-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid | ClC1=CC2=C(C=N1)C=C(N2)C(=O)O | C8H5ClN2O2
